US06184244B2
N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylaianinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester
The titled product was prepared as described in Example 82 using N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino-5-bromo-4-oxo-pentanoic acid, tert-butyl ester (50.8 mg, 0.08 mmol), potassium fluoride (12.0 mg, 0.21 mmol), and 2,3,5,6-tetrafluorophenol (13.3 mg, 0.08 mmol) in DMF (2.0 ml). TLC (hexane/EtOAc, 3/1): Rf=0.25.

reactant | N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylalaninyl]-3-amino-5-bromo-4-oxo-pentanoic acid, tert-butyl ester | 0.08 mmol, 50.8 mg | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N([C@@H](C)C(=O)NC(CC(=O)OC(C)(C)C)C(CBr)=O)C1CCCCC1 | C32H46BrN3O5
reactant | potassium fluoride | 0.21 mmol, 12.0 mg | [F-].[K+]
reactant | 2,3,5,6-tetrafluorophenol | 0.08 mmol, 13.3 mg | FC1=C(C(=C(C=C1F)F)F)O | C6H2F4O
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | N-[(1-methyl-3-isobutyl-indole-2-carbonyl)cyclohexylaianinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | CN1C(=C(C2=CC=CC=C12)CC(C)C)C(=O)N([C@@H](C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)=O)C1CCCCC1 | C38H47F4N3O6
